US07816522B2
After adding 3.11 g of N-bromosuccinimide to a solution of 2.98 g of 6-fluoro-2-hydroxy-3-methoxybenzaldehyde [CAS No. 457628-15-8] in 15 ml of acetonitrile, the mixture was stirred overnight at room temperature. Water was added to the reaction mixture and extraction was performed with ethyl acetate. The organic layer was dried over anhydrous magnesium sulfate. The desiccating agent was filtered off, and the filtrate was concentrated under reduced pressure to give 3.13 g of 5-bromo-6-fluoro-2-hydroxy-3-methoxybenzaldehyde (crude product).

reactant | N-bromosuccinimide | 3.11 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | 6-fluoro-2-hydroxy-3-methoxybenzaldehyde | 2.98 g | FC1=CC=C(C(=C1C=O)O)OC | C8H7FO3
reactant | Water | O | H2O
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | acetonitrile | 15 ml | C(C)#N | C2H3N
product | 5-bromo-6-fluoro-2-hydroxy-3-methoxybenzaldehyde | 3.13 g | BrC=1C=C(C(=C(C=O)C1F)O)OC | C8H6BrFO3
